US04503220
t-Butoxy-bis-dimethylaminomethane (6 cc) is added to a solution of 2-benzhydryloxycarbonyl-7-diethoxyphosphorylamino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (10 g) in dry N,N-dimethylformamide (100 cc) at 80° C. After 12 minutes at 80° C., the reaction mixture is poured into ethyl acetate (400 cc) and washed with distilled water (5×250 cc). After drying over magnesium sulphate and evaporation of the solvent under reduced pressure (30 mm Hg; 4 kPa) at 30° C., 2-benzhydryloxycarbonyl-7-diethoxyphosphorylamino-3-(2-dimethylaminovinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (E isomer) (10.5 g) is obtained in the form of an orange crystalline solid. This product is purified by crystallisation from ethyl acetate (30 cc), and 2-benzhydryloxycarbonyl-7-diethoxyphosphorylamino-3-(2-dimethylaminovinyl)-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene (E isomer) (5.3 g) is obtained in the form of a yellow crystalline powder (m.p.=193° -194° C.).

reactant | t-Butoxy-bis-dimethylaminomethane | 6 cc | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | 2-benzhydryloxycarbonyl-7-diethoxyphosphorylamino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NP(=O)(OCC)OCC)=O | C25H29N2O6PS
reactant | ethyl acetate | 400 cc | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-benzhydryloxycarbonyl-7-diethoxyphosphorylamino-3-(2-dimethylaminovinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 10.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NP(=O)(OCC)OCC)=O | C28H34N3O6PS
